US06489476B1
A solution of diethyl 4-(tert-butyldiphenylsilyloxy)-2,2-difluorobutylphosphonate (1 mmole) in methanol (1 mL) was treated with hydrochloric acid (4 N, 4 mmole) at 0° C., and the resulting reaction was stirred at room temperature for 2 h. Evaporation and chromatography gave diethyl 4-hydroxy-2,2-difluorobutylphosphonate as a clear oil.

reactant | diethyl 4-(tert-butyldiphenylsilyloxy)-2,2-difluorobutylphosphonate | 1 mmole | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CP(OCC)(OCC)=O)(F)F | C24H35F2O4PSi
reactant | hydrochloric acid | 4 mmole, 4 N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | diethyl 4-hydroxy-2,2-difluorobutylphosphonate | OCCC(CP(OCC)(OCC)=O)(F)F | C8H17F2O4P
